US04670438
2-(2-Methoxy-4-methanesulfonyloxy-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride
0.65 g of 2-(2-methoxy-4-methanesulfonyloxy-phenyl)-4-methanesulfonyloxy-imidazo[4,5-c]pyridine was dissolved in 35 ml of ethanolic hydrochloric acid, and the solution was stirred for an hour at room temperature. The precipitate which had formed was suction-filtered off and washed with ethanol.

reactant | 2-(2-methoxy-4-methanesulfonyloxy-phenyl)-4-methanesulfonyloxy-imidazo[4,5-c]pyridine | 0.65 g | COC1=C(C=CC(=C1)OS(=O)(=O)C)C=1NC2=C(C(=NC=C2)OS(=O)(=O)C)N1 | C15H15N3O7S2
reactant | hydrochloric acid | 35 ml | Cl | ClH
product | 2-(2-Methoxy-4-methanesulfonyloxy-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride | Cl.COC1=C(C=CC(=C1)OS(=O)(=O)C)C1=NC=2C(C(NCC2)=O)=N1 | InChI=1S/C14H13N3O5S.ClH/c1-21-11-7-8(22-23(2,19)20)3-4-9(11)13-16-10-5-6-15-14(18)12(10)17-13;/h3-5,7H,6H2,1-2H3,(H,15,18);1H
